US07517875B2
After dissolving N-{[({1-[(3,4-dichlorophenyl)methyl](4-piperidyl)}methyl)amino]thioxomethyl}(fluoren-9-ylmethoxy)carboxamide (553 mg, 1 mmol) in DMF (4 ml), piperidine (0.989 ml, 10 mmol) was added and the mixture was stirred at room temperature overnight. Upon completion of the reaction, water (20 ml) was added and extraction was performed with ethyl acetate (20 ml×3 times). The extracted organic layer was washed with water (100 ml×2 times) and then with saturated brine, dried over anhydrous sodium sulfate, and then filtered and concentrated. Purification was performed by silica gel column chromatography (ethyl acetate/methanol=1/0→4/1) to obtain amino[({1-[(3,4-dichlorophenyl)methyl](4-piperidyl)}methyl)amino]methane-1-thione. The compound was identified by LC-MS.

reactant | N-{[({1-[(3,4-dichlorophenyl)methyl](4-piperidyl)}methyl)amino]thioxomethyl}(fluoren-9-ylmethoxy)carboxamide | 1 mmol, 553 mg | ClC=1C=C(C=CC1Cl)CN1CCC(CC1)CNC(NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=S | C29H29Cl2N3O2S
reactant | piperidine | 10 mmol, 0.989 ml | N1CCCCC1 | C5H11N
reactant | water | 20 ml | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | amino[({1-[(3,4-dichlorophenyl)methyl](4-piperidyl)}methyl)amino]methane-1-thione | NC(=S)NCC1CCN(CC1)CC1=CC(=C(C=C1)Cl)Cl | C14H19Cl2N3S
